US07507736B2
[1-(2,2-Difluoro-ethyl)-5-(1-isopropyl-piperidin-4-yloxy)-1H-indol-2-yl]-[4-(2,2,2-trifluoro-ethanesulfonyl)-piperazin-1-yl]-methanone
The title compound was prepared in analogy to example 51, from [1-(2,2-difluoro-ethyl)-5-(1-isopropyl-piperidin-4-yloxy)-1H-indol-2-yl]-piperazin-1-yl-methanone hydrochloride and 2,2,2-trifluoro-ethanesulfonyl chloride. Light-yellow solid. MS (m/z): 581.3 (M+H)+.

reactant | [1-(2,2-difluoro-ethyl)-5-(1-isopropyl-piperidin-4-yloxy)-1H-indol-2-yl]-piperazin-1-yl-methanone hydrochloride | Cl.FC(CN1C(=CC2=CC(=CC=C12)OC1CCN(CC1)C(C)C)C(=O)N1CCNCC1)F
reactant | 2,2,2-trifluoro-ethanesulfonyl chloride | FC(CS(=O)(=O)Cl)(F)F | C2H2ClF3O2S
product | [1-(2,2-Difluoro-ethyl)-5-(1-isopropyl-piperidin-4-yloxy)-1H-indol-2-yl]-[4-(2,2,2-trifluoro-ethanesulfonyl)-piperazin-1-yl]-methanone | FC(CN1C(=CC2=CC(=CC=C12)OC1CCN(CC1)C(C)C)C(=O)N1CCN(CC1)S(=O)(=O)CC(F)(F)F)F | C25H33F5N4O4S
